Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Percocet / latex
 
Attending: ___.
 
Chief Complaint:
asymptomatic lung lesions
 
Major Surgical or Invasive Procedure:
___
Right VATS wedge biopsy x 3.

 
History of Present Illness:
Ms. ___ is a ___ yo female, never
smoker, with steroid- and IVIG-refractory ITP. Through her ITP
workup, she was found to have a mutation in the CTLA4 gene, 
which
puts her at high risk for lymphoma.  She has had episodes of
profound thrombocytopenia and is currently on romiplostim. She
was incidentally found to have extensive nodular consolidations
on CT of the abdomen and pelvis ___ obtained to evaluate
for potential etiology of chronic diarrhea and weight loss. 
Follow-up chest CT on ___ revealed mediastinal and hilar
adenopathy encasing the central bronchi and vessels pulmonary
tree. It also showed multiple bilateral mass-like lung lesions.

 
Past Medical History:
Idiopathic thrombocytopenia purpura
Polyclonal gammapathy 
Autoimmune lymphoproliferative syndrome 

 
Social History:
___
Family History:
Mother- ITP
Father
___- twin with ITP s/p splenectomy 
Offspring
Other- maternal aunt (and her children): ITP
 
Physical Exam:
Temp  98   BP  100/60  HR  80  RR 16  RA sat 97%

GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [x] EOMI   [x] Anicteric
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA/P     [x] Excursion normal     [ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [x] No JVD   [x] No edema
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND [ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] No facial asymmetry [x] Cognition intact [ ] Abnormal
findings:

MS         
[x] No clubbing   [x] No cyanosis   [x] No edema  [x] Nails nl  
[ ] Abnormal findings:

LYMPH NODES   
 [x] Supraclavicular nl      [ ] Abnormal findings:

SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
                    WBC  RBC Hgb   Hct   MCV MCH   MCHC  RDW 
RDWSD Plt Ct 
___ 04:40    6.8 4.13 10.0* 32.3* 78* 24.2* 31.0* 13.3 
37.6  86 

___ CXR :
Comparison to ___.  The right-sided chest tube has 
been removed. There is a 5 mm right lateral pneumothorax without 
evidence of tension.  Stable left basal parenchymal opacity, 
stable right basal parenchymal opacity. Mild bilateral pleural 
effusions, seen on the lateral radiograph only. 
  

 
Brief Hospital Course:
Ms. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent right VATS wedge biopsy x 3. 
She tolerated the procedure well and returned o the PACU in 
stable condition. She maintained stable hemodynamics and her 
pain was controlled with Tylenol only. Her ___ drain put out a 
scant amount of thin, bloody fluid and had no air leak.

Following transfer to the Surgical floor she progressed well.  
Her ___ tube remained without an air leak or significant 
drainage and was removed early on post op day #1. Her post pull 
chest xray revealed a small right apical pneumothorax and  her 
room air saturations were 96%.  Her port sites were healing 
well.  She was up and walking independently and tolereating a 
regular diet. Her pain was controlled with Tylenol and after an 
uneventful recovery she was discharged home on ___ and will 
follow up with Dr. ___ in 2 weeks.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge. 

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.

* Use a stool softener or gentle laxative to stay regular.

* No driving while taking narcotic pain medication.

* Take Tylenol on a standing basis for pain.

* Continue to stay well hydrated and eat well to heal your 
incisions

* No heavy lifting > 10 lbs for 4 weeks.

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
  * No tub bathing, swimming or hot tubs until incision healed
  * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

 Call Dr. ___ ___ if you experience:
  -Fevers > 101 or chills
  -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

** If pathology specimens were sent at the time of surgery, the 
reports will be reviewed with you in detail at your follow up 
appointment. This will give both you and your doctor time to 
understand the pathology, its implications and discuss options 
going forward.**

 

 

 
 
Followup Instructions:
___